US07205433B2
L-Ala-OMe HCl salt (0.68 g, 4.87 mmol) was suspended in methyl acetate (15 ml). 2,4-Dimethylbenzenesulfonic acid (2,4-DMBS) (1.09 g, 5.85 mmol) was added, and the mixture was stirred for dissolution. This solution was concentrated under reduced pressure, methyl acetate (15 ml) was added, and the mixture was concentrated twice under reduced pressure. The obtained concentrate was cooled in a refrigerator. Since partial crystallization occurred, methyl acetate (5 ml) and diethyl ether (15 ml) were added to dissolve the crystals by stirring at room temperature. This solution was stirred under ice-cooling to give a slurry. This slurry was cooled overnight in a refrigerator, and the crystals were separated and dried to give 1.18 g of L-alanine methyl ester 2,4-dimethylbenzenesulfonate (L-Ala-OMe 2,4-DMBS salt) dry crystals (L-Ala-OMe 2,4-DMBS salt 92.9%, 4.11 mmol, yield 84.4%).

reactant | L-Ala-OMe HCl | 4.87 mmol, 0.68 g | N[C@@H](C)C(=O)OC.Cl
reactant | 2,4-Dimethylbenzenesulfonic acid | 5.85 mmol, 1.09 g | CC1=C(C=CC(=C1)C)S(=O)(=O)O | C8H10O3S
solvent | methyl acetate | 15 ml | C(C)(=O)OC | C3H6O2
product | L-alanine methyl ester 2,4-dimethylbenzenesulfonate | 1.18 g | CC1=C(C=CC(=C1)C)S(=O)(=O)O.COC([C@@H](N)C)=O | InChI=1S/C8H10O3S.C4H9NO2/c1-6-3-4-8(7(2)5-6)12(9,10)11;1-3(5)4(6)7-2/h3-5H,1-2H3,(H,9,10,11);3H,5H2,1-2H3/t;3-/m.0/s1
